US04999130
A mixture of 1.25 g (8.1 mM) of (-)-2-methylhexanoic acid ([α]D26 -6.15 degrees (c 1.073, methanol)), 20 ml of dry tetrahydrofuran and 0.90 g (8.9 mM) of dry triethylamine was cooled on an ice bath, and 0.84 g (8.1 mM) of ethyl chloroformic acid was added dropwise thereto in 5 minutes, followed by 1 hour of stirring at 0° C. A white salt precipitated at this time was removed by filtration. To a mixture of 0.46 g (12.1 mM) of sodium borohydride and 8 ml of distilled water under stirring at 0° C., the above filtrate was added dropwise in 20 min., followed by stirring at room temperature for 3 hours. After the reaction, 2N-hydrochloric acid was added to give pH 1, and the organic layer was separated. The remaining aqueous layer was subjected to extraction with ether, and the ether extract was mixed with the organic layer. The mixture was washed with 1N-sodium bicarbonate aqueous solution and dried on sodium sulfate. After the removal of solvent by distillation, the product was subjected to distillation by a Kugelrohr distiller. At 95° C./4 mmHg, (+)-2-cyano-2-methyl-1-hexanol was obtained in an amount of 0.55 g (Yield:48.5%), [α]D26 +0.66 degree (c 1.823, ether).

reactant | (-)-2-methylhexanoic acid | 8.1 mM, 1.25 g | CC(C(=O)O)CCCC | C7H14O2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | ethyl chloroformic acid | 8.1 mM, 0.84 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | triethylamine | 8.9 mM, 0.90 g | C(C)N(CC)CC | C6H15N
product | (+)-2-cyano-2-methyl-1-hexanol | Yield:48.5% | C(#N)C(CO)(CCCC)C | C8H15NO
